US09233946B2
3-{[(5-Chloro-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoic acid
1.7 M aq. KOH (5 mL) was added to a slurry of methyl 3-{[(5-chloro-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate (400 mg, 1.01 mmol) in MeOH (5 mL). The reaction mixture was stirred at 50° C. for 1.5 h. After removal of the MeOH under reduced pressure, the remaining aqueous solution was acidified to pH 3 by addition of ortho-phosphoric acid. The precipitate was collected, washed with water and dried giving the title compound as an off-white solid (363 mg, 91%). 1H NMR (500 MHz, MeOH-d4) δ ppm 2.49 (s, 3 H) 7.32-7.39 (m, 2 H) 7.46 (dd, J=8.67, 2.08 Hz, 1 H) 7.75 (dt, J=7.32, 1.59 Hz, 1 H) 7.82-7.86 (m, 3 H). MS (ESI+) m/z 399 [M+NH4]+.

reactant | KOH | 1.7 M, 5 mL | [OH-].[K+]
reactant | methyl 3-{[(5-chloro-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoate | 1.01 mmol, 400 mg | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2C=C(C(=O)OC)C=CC2)C)C1 | C17H14ClNO4S2
solvent | MeOH | 5 mL | CO | CH4O
product | 3-{[(5-Chloro-3-methyl-1-benzothien-2-yl)sulfonyl]amino}benzoic acid | 363 mg, 91% | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)NC=2C=C(C(=O)O)C=CC2)C)C1 | C16H12ClNO4S2
